US05874436
N,N'-Bis(t-butoxycarbonyl)-N"-2-(4-hydroxy-phenyl)ethylguanidine
A solution of N,N'-Bis(tert-butoxycarbonyl)-S-methylisothiourea (22.4 g, 77.3 mmol) is dissolved in 130 mL of THF and added dropwise under nitrogen to 10.6 g (77.3 mmol) of tyramine in 100 mL of THF at 0° C. Reaction reaches completion overnight according to TLC. The solvent is removed in vacuo. Purification on a silica gel column, eluted successively with 5% EtOAc/Hexane, 15% EtOAc/Hexane, and 35% EtOAc/Hexane, provides the title compound as a white solid, m.p. 132°-133° C. (dec.) (21.0 g, 72%).

reactant | N,N'-Bis(tert-butoxycarbonyl)-S-methylisothiourea | 77.3 mmol, 22.4 g | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | tyramine | 77.3 mmol, 10.6 g | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N,N'-Bis(t-butoxycarbonyl)-N"-2-(4-hydroxy-phenyl)ethylguanidine | C(C)(C)(C)OC(=O)NC(=NCCC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C | C19H29N3O5
